US08809336B2
A 4M solution of HCl in dioxane (0.3 ml, 1.2 mmol) was added dropwise to a solution of 4-tert-butoxycarbonylamino-4-[(4-chloro-benzoylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (5.8 mg, 0.012 mmol) in methanol (0.5 mL). The solution was stirred at room temperature for 17 hours. The solvents were concentrated to give N-(4-amino-piperidin-4-ylmethyl)-4-chloro-benzamide dihydrochloride (6.1 mg, quantitative) that was used in the next step without further purification. 1H NMR (CD3OD) δ 2.23-2.30 (4H, m), 3.46-3.61 (4H, m), 3.89 (2H, s), 7.58 (2H, d, J=7 Hz), 8.03 (2H, d, J=7 Hz).

reactant | HCl | Cl | ClH
reactant | dioxane | 1.2 mmol, 0.3 ml | O1CCOCC1 | C4H8O2
reactant | 4-tert-butoxycarbonylamino-4-[(4-chloro-benzoylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.012 mmol, 5.8 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC(C1=CC=C(C=C1)Cl)=O)NC(=O)OC(C)(C)C | C23H34ClN3O5
solvent | methanol | 0.5 mL | CO | CH4O
product | N-(4-amino-piperidin-4-ylmethyl)-4-chloro-benzamide dihydrochloride | 6.1 mg | Cl.Cl.NC1(CCNCC1)CNC(C1=CC=C(C=C1)Cl)=O | InChI=1S/C13H18ClN3O.2ClH/c14-11-3-1-10(2-4-11)12(18)17-9-13(15)5-7-16-8-6-13;;/h1-4,16H,5-9,15H2,(H,17,18);2*1H
